### PR TITLE
feat: verify fold/for variants for Hashmaps

### PR DESCRIPTION
**Pull request by jt0202**
This PR verifies the various fold and for variants for hashmaps.

### CODE REVIEW

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 1]
```diff
@@ -936,6 +938,30 @@ theorem distinct_keys_toList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
 
 end Const
 
+section fold
+
+variable {α : Type u} {β : α → Type v} {m : Raw₀ α β} {δ : Type w} {m' : Type w → Type w }
+
+theorem foldM_eq_foldlM_toListModel [Monad m'] [LawfulMonad m']
+    {f : δ → (a : α) → β a → m' δ} {init : δ}  :
+    m.1.foldM f init = m.1.toList.foldlM (fun a b => f a b.1 b.2) init := by
```
Comment (jt0202) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:947]: Would another version that uses the curried version of the function be useful ?

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 2]
```diff
@@ -122,6 +164,26 @@ theorem keys_eq_keys_toListModel {m : Raw α β }:
...
   simp [Raw.keys, foldRev_cons_key, keys_eq_map]
 
+theorem forM_eq_forM_toList {l: Raw α β} {m : Type w → Type w} [Monad m] [LawfulMonad m]
+    {f : (a : α) → β a → m PUnit} :
+    l.forM f = (toListModel l.buckets).forM (fun a => f a.1 a.2) := by
+  simp only [Raw.forM, Array.forM, ← Array.foldlM_toList, toListModel]
+  induction l.buckets.toList with
+  | nil => simp
+  | cons hd tl ih =>
+    simp only [foldlM_cons, flatMap_cons, forM_eq_forM, forM_append]
```
Comment (jt0202) [inline src/Std/Data/DHashMap/Internal/WF.lean:174]: Ideally, I would want to do this also for forIn, but I not all lemmas from forM are available and proving them does not appear to be straightforward.

File: src/Std/Data/DHashMap/Internal/WF.lean [hunk 3]
```diff
@@ -111,6 +111,48 @@ theorem foldRev_cons_key {l : Raw α β} {acc : List α} :
     l.foldRev (fun acc k _ => k :: acc) acc = List.keys (toListModel l.buckets) ++ acc := by
   rw [foldRev_cons_apply, keys_eq_map]
 
+theorem foldM_eq_foldlM_toListModel {δ : Type w} {m : Type w → Type w } [Monad m] [LawfulMonad m]
```
Comment (jt0202) [inline src/Std/Data/DHashMap/Internal/WF.lean:114]: I assume in generally `LawfulMonad` as it simplifies(allows?) the proofs. I don't know enough about monads to assess whether it is acceptable.

Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/WF.lean:114]: Yes, feel free to assume `LawfulMonad` wherever you need it.

File: src/Std/Data/DHashMap/Internal/WF.lean (hunk 2 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/WF.lean:174]: Could you write out the specific lemmas you need?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 1 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:947]: I think the version you have here is strictly more general as `foldM` assumes the uncurried version, and if someone calls `foldM` with a curried `f`, then the simplifier should take care of making the RHS look good. So I don't think you need to provide the variant here.

File: src/Std/Data/DHashMap/Internal/WF.lean (hunk 2 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/WF.lean:174]: I needed forIn_append. Maybe also more, but this was the current obstacle. Reasoning about the do monad was difficult

Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/WF.lean:174]: The reason why there is no `List.forIn_append` seems to be that there is really no good way to state it. Luckily, it is possible to do without it:

```lean
theorem forIn_eq_forIn_toList {δ : Type w} {l : Raw α β} {m : Type w → Type w} [Monad m] [LawfulMonad m]
    {f : (a : α) → β a → δ → m (ForInStep δ)} {init : δ} :
    l.forIn f init = ForIn.forIn (toListModel l.buckets) init (fun a d => f a.1 a.2 d) := by
  rw [Raw.forIn, ← Array.forIn_toList, toListModel]
  induction l.buckets.toList generalizing init with
  | nil => simp
  | cons hd tl ih =>
    induction hd generalizing init with
    | nil => simpa [AssocList.forInStep, AssocList.forInStep.go] using ih
    | cons k v tl' ih' =>
      simp only [AssocList.forInStep, forIn_cons, AssocList.forInStep.go, LawfulMonad.bind_assoc,
        flatMap_cons, AssocList.toList_cons, cons_append]
      congr
      apply funext
      rintro (⟨d⟩|⟨d⟩)
      · simp
      · simp only [forIn_cons, flatMap_cons] at ih' ⊢
        refine Eq.trans ?_ ih'
        simp [AssocList.forInStep]
```

File: src/Std/Data/DHashMap/Basic.lean [hunk 4]
```diff
@@ -204,14 +196,13 @@ section Unverified
...
-      (l.insert a b, r)
-    else
-      (l, r.insert a b)
+@[inline, inherit_doc Raw.foldRevM] def foldRevM (f : δ → (a : α) → β a → m δ) (init : δ)
+    (b : DHashMap α β) : m δ :=
+  b.1.foldRevM f init
+
+@[inline, inherit_doc Raw.foldRev] def foldRev (f : δ → (a : α) → β a → δ) (init : δ)
+    (b : DHashMap α β) : δ :=
+  b.1.foldRev f init
```
Comment (jt0202) [inline src/Std/Data/DHashMap/Basic.lean:205]: I introduced these two functions that were previously only defined for `DHashMap.Raw`  because I had already proven the lemmas in Raw0. Was there a specific reason to not have these?

Comment (jt0202) [reply src/Std/Data/DHashMap/Basic.lean:205]: We can also delete them, but writing all lemmas in one go and later deleting unneeded lemmas is faster than going up the hashmap trees multiple times.

**Comment by jt0202** [comment]
changelog-library

File: src/Std/Data/DHashMap/Basic.lean (hunk 4 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Basic.lean:205]: I'm sorry for the confusion. The `foldRev` and `foldRevM` functions are actually only intended for internal use in the definition of `toArray`, and we had just forgotten to properly mark them as internal. So in fact we don't want any user-facing lemmas about `foldRev`, but we should keep the lemmas you have proved to the extent where they will be useful to verify `toArray` in the future.

File: src/Std/Data/HashMap/Lemmas.lean [hunk 5]
```diff
@@ -751,6 +751,68 @@ theorem distinct_keys_toList [EquivBEq α] [LawfulHashable α] :
...
+
+theorem foldRev_eq_foldr_toList {f : δ → (a : α) → β → δ} {init : δ} :
+    m.foldRev f init = m.toList.foldr (fun a b => f b a.1 a.2) init :=
+  DHashMap.Const.foldRev_eq_foldr_toList
+
+theorem forM_eq_forM_toList [Monad m'] [LawfulMonad m'] {f : (a : α) → β → m' PUnit} :
+    m.forM f = m.toList.forM (fun a => f a.1 a.2) :=
+  DHashMap.Const.forM_eq_forM_toList
+
+theorem forIn_eq_forIn_toList [Monad m'] [LawfulMonad m']
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean:780]: Similar to the setup for `List`, the left-hand side of this lemma should be stated in terms of `ForIn.forIn`, and there should be an additional `@[simp]` lemma that rewrites `HashMap.forIn` to `ForIn.forIn`.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 6]
```diff
@@ -1066,6 +1066,83 @@ theorem distinct_keys_toList [EquivBEq α] [LawfulHashable α] :
...
+theorem fold_eq_foldl_toList {f : δ → (a : α) → β a → δ} {init : δ} :
+    m.fold f init = m.toList.foldl (fun a b => f a b.1 b.2) init :=
+  Raw₀.fold_eq_foldl_toList ⟨m.1, m.2.size_buckets_pos⟩
+
+@[simp]
+theorem forM_eq_forM [Monad m'] [LawfulMonad m'] {f : (a : α) → β a → m' PUnit} :
+    DHashMap.forM f m = ForM.forM m (fun a => f a.1 a.2):= rfl
+
+theorem forM_eq_forM_toList [Monad m'] [LawfulMonad m'] {f : (a : α) × β a → m' PUnit} :
+    ForM.forM m f = ForM.forM m.toList f  :=
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1087]:
```suggestion
    ForM.forM m f = ForM.forM m.toList f :=
```

**Review by TwoFX — APPROVED** [review]
Great work!
